US07932281B2
Synthesis of N,N-dipropylbutane-1,4-diamine
N-(4-aminobutyl)-carbamic acid t-butyl ester (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (500 mg) was dissolved in methanol (10 ml) and then added with propionaldehyde (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (0.418 ml), sodium cyanoborohydride (404 mg), and trimethyl orthoacetate (1.60 g), and the whole was stirred at room temperature for 12 hours. After completion of the reaction, the solvent was distilled off. Then, the resultant was added with chloroform, washed with distilled water and a saturated saline solution, and then dried with anhydrous sodium sulfate. After concentration and evaporation to dryness of the solution, methanol (4.0 ml) and a 4 mol/l hydrogen chloride/dioxane solution (4.0 ml) were added to the dried product and the whole was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off and then dioxane was added to wash the residue, thereby obtaining a hydrochloride (654 mg) of the subject compound.

reactant | N-(4-aminobutyl)-carbamic acid t-butyl ester | 500 mg | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | propionaldehyde | 0.418 ml | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 404 mg | C(#N)[BH3-].[Na+]
reactant | trimethyl orthoacetate | 1.60 g | C(C)(OC)(OC)OC | C5H12O3
solvent | methanol | 10 ml | CO | CH4O
product | N,N-dipropylbutane-1,4-diamine | 654 mg | C(CC)N(CCCCN)CCC | C10H24N2
